US06362177B1
A solution of 4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine (1.50 g, 3.49 mmol), 4-fluorobenzyl bromide (0.478 mL, 3.84 mmol), and Et3N (1.47 mL, 10.5 mmol) in CH3CN (200 mL) was stirred at room temperature for 13 h and concentrated. Column chromatography (SiO2, 10% , CH3OH/CH2Cl2) afforded 4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]-1-(4-fluorobenzyl)piperidine.

reactant | 4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine | 3.49 mmol, 1.50 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)NCC1CCNCC1 | C23H27N3O3
reactant | 4-fluorobenzyl bromide | 3.84 mmol, 0.478 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | Et3N | 10.5 mmol, 1.47 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]-1-(4-fluorobenzyl)piperidine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)NCC1CCN(CC1)CC1=CC=C(C=C1)F | C30H32FN3O3
